US06110939
A mixture of (±)-cis-N-[1,2-bis(phenylmethyl)-4-piperidinyl]-1-methyl-1H-benzimidazol-2-amine (4.7 g) in methanol (200 ml) was hydrogenated with palladium on activated carbon (10%; 2 g) as a catalyst. After uptake of hydrogen, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and the solvent evaporated. The residue was suspended in DIPE, filtered and dried, yielding 0.6 g (17%) of (±)-cis-1-methyl-N-[2-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-amine (interm. 31; mp. 86.3° C.).

reactant | (±)-cis-N-[1,2-bis(phenylmethyl)-4-piperidinyl]-1-methyl-1H-benzimidazol-2-amine | 4.7 g | C1(=CC=CC=C1)CN1[C@H](C[C@H](CC1)NC1=NC2=C(N1C)C=CC=C2)CC2=CC=CC=C2 | C27H30N4
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on activated carbon | 2 g | [Pd] | Pd
product | (±)-cis-1-methyl-N-[2-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | 0.6 g, 17% | CN1C(=NC2=C1C=CC=C2)N[C@@H]2C[C@@H](NCC2)CC2=CC=CC=C2 | C20H24N4
